US07723333B2
Mesitylacetaldehyde
2-Mesitylethanol (0.99 g, 6.0 mmol) was dissolved in DCM (10.0 mL, dry) and cooled to 0° C. 1,1,1-Tris(acetyloxy)-1λ5,2-benziodoxol-3(1H)-one (Dess-Martin periodinane) in DCM (15 wt %, 2.80 g, 6.60 mmol) was added dropwise over a period of 20 mins. The ice bath was removed and the reaction mixture was stirred at rt for 4 h. NaOH (2N, 5 mL) was added to the mixture and it was diluted with water (5 mL). The layers were separated and the organic layer was washed with water, dried over Na2SO4, and evaporated. The residue was purified by column chromatography on silica gel using heptane and EtOAc as eluant giving the title compound (0.69 g, 71%). 1H NMR (CDCl3, 400 MHz) δ 9.68-9.65 (m, 1H), 6.94-6.90 (m, 2H), 3.75-3.71 (m, 2H), 2.29 (s, 3H), 2.27 (s, 6H).

reactant | 2-Mesitylethanol | 6.0 mmol, 0.99 g | C1(=C(C(=CC(=C1)C)C)CCO)C | C11H16O
reactant | 1,1,1-Tris(acetyloxy)-1λ5,2-benziodoxol-3(1H)-one | C(C)(=O)OI1(OC(C2=C1C=CC=C2)=O)(OC(C)=O)OC(C)=O | C13H13IO8
solvent | DCM | 10.0 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 6.60 mmol, 2.80 g | C(Cl)Cl | CH2Cl2
product | Mesitylacetaldehyde | 0.69 g, 71% | C1(=C(C(=CC(=C1)C)C)CC=O)C | C11H14O
